US06121308
1-methyl-2-[(3-amidinophenyl)-oxymethyl]-5-benzenesulphonylamino-benzimidazole
Prepared analogously to Example 1e from 1-methyl-2-[(3-cyanophenyl)-oxymethyl]-5-(benzenesulphonylamino)-benzimidazole and ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 1-methyl-2-[(3-cyanophenyl)-oxymethyl]-5-(benzenesulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2)COC2=CC(=CC=C2)C#N | C22H18N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-2-[(3-amidinophenyl)-oxymethyl]-5-benzenesulphonylamino-benzimidazole | CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2)COC2=CC(=CC=C2)C(N)=N | C22H21N5O3S
